.subckt my_snspi N0 OUT
** snspi **
XU0 0 0 N0 N1 nanowireDynamic
.lib snspd.lib
C0 N0 0 8e-09
XU1 0 0 N1 N2 nanowireDynamic
C1 N1 0 8e-09
XU2 0 0 N2 N3 nanowireDynamic
C2 N2 0 8e-09
XU3 0 0 N3 N4 nanowireDynamic
C3 N3 0 8e-09
XU4 0 0 N4 N5 nanowireDynamic
C4 N4 0 8e-09
XU5 0 0 N5 N6 nanowireDynamic
C5 N5 0 8e-09
XU6 0 0 N6 N7 nanowireDynamic
C6 N6 0 8e-09
XU7 0 0 N7 N8 nanowireDynamic
C7 N7 0 8e-09
XU8 0 0 N8 N9 nanowireDynamic
C8 N8 0 8e-09
XU9 0 0 N9 N10 nanowireDynamic
C9 N9 0 8e-09
XU10 0 0 N10 N11 nanowireDynamic
C10 N10 0 8e-09
XU11 0 0 N11 N12 nanowireDynamic
C11 N11 0 8e-09
XU12 0 0 N12 N13 nanowireDynamic
C12 N12 0 8e-09
XU13 0 0 N13 N14 nanowireDynamic
C13 N13 0 8e-09
XU14 0 0 N14 N15 nanowireDynamic
C14 N14 0 8e-09
XU15 0 0 N15 N16 nanowireDynamic
C15 N15 0 8e-09
XU16 0 0 N16 N17 nanowireDynamic
C16 N16 0 8e-09
XU17 0 0 N17 N18 nanowireDynamic
C17 N17 0 8e-09
XU18 0 0 N18 N19 nanowireDynamic
C18 N18 0 8e-09
XU19 0 0 N19 N20 nanowireDynamic
C19 N19 0 8e-09
XU20 0 0 N20 N21 nanowireDynamic
C20 N20 0 8e-09
XU21 0 0 N21 N22 nanowireDynamic
C21 N21 0 8e-09
XU22 0 0 N22 N23 nanowireDynamic
C22 N22 0 8e-09
XU23 0 0 N23 N24 nanowireDynamic
C23 N23 0 8e-09
XU24 0 0 N24 N25 nanowireDynamic
C24 N24 0 8e-09
XU25 0 0 N25 N26 nanowireDynamic
C25 N25 0 8e-09
XU26 0 0 N26 N27 nanowireDynamic
C26 N26 0 8e-09
XU27 0 0 N27 N28 nanowireDynamic
C27 N27 0 8e-09
XU28 0 0 N28 N29 nanowireDynamic
C28 N28 0 8e-09
XU29 0 0 N29 N30 nanowireDynamic
C29 N29 0 8e-09
XU30 0 0 N30 N31 nanowireDynamic
C30 N30 0 8e-09
XU31 0 0 N31 N32 nanowireDynamic
C31 N31 0 8e-09
XU32 0 0 N32 N33 nanowireDynamic
C32 N32 0 8e-09
XU33 0 0 N33 N34 nanowireDynamic
C33 N33 0 8e-09
XU34 0 0 N34 N35 nanowireDynamic
C34 N34 0 8e-09
XU35 0 0 N35 N36 nanowireDynamic
C35 N35 0 8e-09
XU36 0 0 N36 N37 nanowireDynamic
C36 N36 0 8e-09
XU37 0 0 N37 N38 nanowireDynamic
C37 N37 0 8e-09
XU38 0 0 N38 N39 nanowireDynamic
C38 N38 0 8e-09
XU39 0 0 N39 N40 nanowireDynamic
C39 N39 0 8e-09
XU40 0 0 N40 N41 nanowireDynamic
C40 N40 0 8e-09
XU41 0 0 N41 N42 nanowireDynamic
C41 N41 0 8e-09
XU42 0 0 N42 N43 nanowireDynamic
C42 N42 0 8e-09
XU43 0 0 N43 N44 nanowireDynamic
C43 N43 0 8e-09
XU44 0 0 N44 N45 nanowireDynamic
C44 N44 0 8e-09
XU45 0 0 N45 N46 nanowireDynamic
C45 N45 0 8e-09
XU46 0 0 N46 N47 nanowireDynamic
C46 N46 0 8e-09
XU47 0 0 N47 N48 nanowireDynamic
C47 N47 0 8e-09
XU48 0 0 N48 N49 nanowireDynamic
C48 N48 0 8e-09
XU49 0 0 N49 N50 nanowireDynamic
C49 N49 0 8e-09
XU50 0 0 N50 N51 nanowireDynamic
C50 N50 0 8e-09
XU51 0 0 N51 N52 nanowireDynamic
C51 N51 0 8e-09
XU52 0 0 N52 N53 nanowireDynamic
C52 N52 0 8e-09
XU53 0 0 N53 N54 nanowireDynamic
C53 N53 0 8e-09
XU54 0 0 N54 N55 nanowireDynamic
C54 N54 0 8e-09
XU55 0 0 N55 N56 nanowireDynamic
C55 N55 0 8e-09
XU56 0 0 N56 N57 nanowireDynamic
C56 N56 0 8e-09
XU57 0 0 N57 N58 nanowireDynamic
C57 N57 0 8e-09
XU58 0 0 N58 N59 nanowireDynamic
C58 N58 0 8e-09
XU59 0 0 N59 N60 nanowireDynamic
C59 N59 0 8e-09
XU60 0 0 N60 N61 nanowireDynamic
C60 N60 0 8e-09
XU61 0 0 N61 N62 nanowireDynamic
C61 N61 0 8e-09
XU62 0 0 N62 N63 nanowireDynamic
C62 N62 0 8e-09
XU63 0 0 N63 N64 nanowireDynamic
C63 N63 0 8e-09
XU64 0 0 N64 N65 nanowireDynamic
C64 N64 0 8e-09
XU65 0 0 N65 N66 nanowireDynamic
C65 N65 0 8e-09
XU66 0 0 N66 N67 nanowireDynamic
C66 N66 0 8e-09
XU67 0 0 N67 N68 nanowireDynamic
C67 N67 0 8e-09
XU68 0 0 N68 N69 nanowireDynamic
C68 N68 0 8e-09
XU69 0 0 N69 N70 nanowireDynamic
C69 N69 0 8e-09
XU70 0 0 N70 N71 nanowireDynamic
C70 N70 0 8e-09
XU71 0 0 N71 N72 nanowireDynamic
C71 N71 0 8e-09
XU72 0 0 N72 N73 nanowireDynamic
C72 N72 0 8e-09
XU73 0 0 N73 N74 nanowireDynamic
C73 N73 0 8e-09
XU74 0 0 N74 N75 nanowireDynamic
C74 N74 0 8e-09
XU75 0 0 N75 N76 nanowireDynamic
C75 N75 0 8e-09
XU76 0 0 N76 N77 nanowireDynamic
C76 N76 0 8e-09
XU77 0 0 N77 N78 nanowireDynamic
C77 N77 0 8e-09
XU78 0 0 N78 N79 nanowireDynamic
C78 N78 0 8e-09
XU79 0 0 N79 N80 nanowireDynamic
C79 N79 0 8e-09
XU80 0 0 N80 N81 nanowireDynamic
C80 N80 0 8e-09
XU81 0 0 N81 N82 nanowireDynamic
C81 N81 0 8e-09
XU82 0 0 N82 N83 nanowireDynamic
C82 N82 0 8e-09
XU83 0 0 N83 N84 nanowireDynamic
C83 N83 0 8e-09
XU84 0 0 N84 N85 nanowireDynamic
C84 N84 0 8e-09
XU85 0 0 N85 N86 nanowireDynamic
C85 N85 0 8e-09
XU86 0 0 N86 N87 nanowireDynamic
C86 N86 0 8e-09
XU87 0 0 N87 N88 nanowireDynamic
C87 N87 0 8e-09
XU88 0 0 N88 N89 nanowireDynamic
C88 N88 0 8e-09
XU89 0 0 N89 N90 nanowireDynamic
C89 N89 0 8e-09
XU90 0 0 N90 N91 nanowireDynamic
C90 N90 0 8e-09
XU91 0 0 N91 N92 nanowireDynamic
C91 N91 0 8e-09
XU92 0 0 N92 N93 nanowireDynamic
C92 N92 0 8e-09
XU93 0 0 N93 N94 nanowireDynamic
C93 N93 0 8e-09
XU94 0 0 N94 N95 nanowireDynamic
C94 N94 0 8e-09
XU95 0 0 N95 N96 nanowireDynamic
C95 N95 0 8e-09
XU96 0 0 N96 N97 nanowireDynamic
C96 N96 0 8e-09
XU97 0 0 N97 N98 nanowireDynamic
C97 N97 0 8e-09
XU98 0 0 N98 N99 nanowireDynamic
C98 N98 0 8e-09
XU99 0 0 N99 N100 nanowireDynamic
C99 N99 0 8e-09
iphoton_1_at_100 0 PHOTON100 PULSE(0 1u 1e-08 1p 1p 1p)
XU100 PHOTON100 0 N100 N101 nanowireDynamic
C100 N100 0 8e-09
XU101 0 0 N101 N102 nanowireDynamic
C101 N101 0 8e-09
XU102 0 0 N102 N103 nanowireDynamic
C102 N102 0 8e-09
XU103 0 0 N103 N104 nanowireDynamic
C103 N103 0 8e-09
XU104 0 0 N104 N105 nanowireDynamic
C104 N104 0 8e-09
XU105 0 0 N105 N106 nanowireDynamic
C105 N105 0 8e-09
XU106 0 0 N106 N107 nanowireDynamic
C106 N106 0 8e-09
XU107 0 0 N107 N108 nanowireDynamic
C107 N107 0 8e-09
XU108 0 0 N108 N109 nanowireDynamic
C108 N108 0 8e-09
XU109 0 0 N109 N110 nanowireDynamic
C109 N109 0 8e-09
XU110 0 0 N110 N111 nanowireDynamic
C110 N110 0 8e-09
XU111 0 0 N111 N112 nanowireDynamic
C111 N111 0 8e-09
XU112 0 0 N112 N113 nanowireDynamic
C112 N112 0 8e-09
XU113 0 0 N113 N114 nanowireDynamic
C113 N113 0 8e-09
XU114 0 0 N114 N115 nanowireDynamic
C114 N114 0 8e-09
XU115 0 0 N115 N116 nanowireDynamic
C115 N115 0 8e-09
XU116 0 0 N116 N117 nanowireDynamic
C116 N116 0 8e-09
XU117 0 0 N117 N118 nanowireDynamic
C117 N117 0 8e-09
XU118 0 0 N118 N119 nanowireDynamic
C118 N118 0 8e-09
XU119 0 0 N119 N120 nanowireDynamic
C119 N119 0 8e-09
XU120 0 0 N120 N121 nanowireDynamic
C120 N120 0 8e-09
XU121 0 0 N121 N122 nanowireDynamic
C121 N121 0 8e-09
XU122 0 0 N122 N123 nanowireDynamic
C122 N122 0 8e-09
XU123 0 0 N123 N124 nanowireDynamic
C123 N123 0 8e-09
XU124 0 0 N124 N125 nanowireDynamic
C124 N124 0 8e-09
XU125 0 0 N125 N126 nanowireDynamic
C125 N125 0 8e-09
XU126 0 0 N126 N127 nanowireDynamic
C126 N126 0 8e-09
XU127 0 0 N127 N128 nanowireDynamic
C127 N127 0 8e-09
XU128 0 0 N128 N129 nanowireDynamic
C128 N128 0 8e-09
XU129 0 0 N129 N130 nanowireDynamic
C129 N129 0 8e-09
XU130 0 0 N130 N131 nanowireDynamic
C130 N130 0 8e-09
XU131 0 0 N131 N132 nanowireDynamic
C131 N131 0 8e-09
XU132 0 0 N132 N133 nanowireDynamic
C132 N132 0 8e-09
XU133 0 0 N133 N134 nanowireDynamic
C133 N133 0 8e-09
XU134 0 0 N134 N135 nanowireDynamic
C134 N134 0 8e-09
XU135 0 0 N135 N136 nanowireDynamic
C135 N135 0 8e-09
XU136 0 0 N136 N137 nanowireDynamic
C136 N136 0 8e-09
XU137 0 0 N137 N138 nanowireDynamic
C137 N137 0 8e-09
XU138 0 0 N138 N139 nanowireDynamic
C138 N138 0 8e-09
XU139 0 0 N139 N140 nanowireDynamic
C139 N139 0 8e-09
XU140 0 0 N140 N141 nanowireDynamic
C140 N140 0 8e-09
XU141 0 0 N141 N142 nanowireDynamic
C141 N141 0 8e-09
XU142 0 0 N142 N143 nanowireDynamic
C142 N142 0 8e-09
XU143 0 0 N143 N144 nanowireDynamic
C143 N143 0 8e-09
XU144 0 0 N144 N145 nanowireDynamic
C144 N144 0 8e-09
XU145 0 0 N145 N146 nanowireDynamic
C145 N145 0 8e-09
XU146 0 0 N146 N147 nanowireDynamic
C146 N146 0 8e-09
XU147 0 0 N147 N148 nanowireDynamic
C147 N147 0 8e-09
XU148 0 0 N148 N149 nanowireDynamic
C148 N148 0 8e-09
XU149 0 0 N149 N150 nanowireDynamic
C149 N149 0 8e-09
XU150 0 0 N150 N151 nanowireDynamic
C150 N150 0 8e-09
XU151 0 0 N151 N152 nanowireDynamic
C151 N151 0 8e-09
XU152 0 0 N152 N153 nanowireDynamic
C152 N152 0 8e-09
XU153 0 0 N153 N154 nanowireDynamic
C153 N153 0 8e-09
XU154 0 0 N154 N155 nanowireDynamic
C154 N154 0 8e-09
XU155 0 0 N155 N156 nanowireDynamic
C155 N155 0 8e-09
XU156 0 0 N156 N157 nanowireDynamic
C156 N156 0 8e-09
XU157 0 0 N157 N158 nanowireDynamic
C157 N157 0 8e-09
XU158 0 0 N158 N159 nanowireDynamic
C158 N158 0 8e-09
XU159 0 0 N159 N160 nanowireDynamic
C159 N159 0 8e-09
XU160 0 0 N160 N161 nanowireDynamic
C160 N160 0 8e-09
XU161 0 0 N161 N162 nanowireDynamic
C161 N161 0 8e-09
XU162 0 0 N162 N163 nanowireDynamic
C162 N162 0 8e-09
XU163 0 0 N163 N164 nanowireDynamic
C163 N163 0 8e-09
XU164 0 0 N164 N165 nanowireDynamic
C164 N164 0 8e-09
XU165 0 0 N165 N166 nanowireDynamic
C165 N165 0 8e-09
XU166 0 0 N166 N167 nanowireDynamic
C166 N166 0 8e-09
XU167 0 0 N167 N168 nanowireDynamic
C167 N167 0 8e-09
XU168 0 0 N168 N169 nanowireDynamic
C168 N168 0 8e-09
XU169 0 0 N169 N170 nanowireDynamic
C169 N169 0 8e-09
XU170 0 0 N170 N171 nanowireDynamic
C170 N170 0 8e-09
XU171 0 0 N171 N172 nanowireDynamic
C171 N171 0 8e-09
XU172 0 0 N172 N173 nanowireDynamic
C172 N172 0 8e-09
XU173 0 0 N173 N174 nanowireDynamic
C173 N173 0 8e-09
XU174 0 0 N174 N175 nanowireDynamic
C174 N174 0 8e-09
XU175 0 0 N175 N176 nanowireDynamic
C175 N175 0 8e-09
XU176 0 0 N176 N177 nanowireDynamic
C176 N176 0 8e-09
XU177 0 0 N177 N178 nanowireDynamic
C177 N177 0 8e-09
XU178 0 0 N178 N179 nanowireDynamic
C178 N178 0 8e-09
XU179 0 0 N179 N180 nanowireDynamic
C179 N179 0 8e-09
XU180 0 0 N180 N181 nanowireDynamic
C180 N180 0 8e-09
XU181 0 0 N181 N182 nanowireDynamic
C181 N181 0 8e-09
XU182 0 0 N182 N183 nanowireDynamic
C182 N182 0 8e-09
XU183 0 0 N183 N184 nanowireDynamic
C183 N183 0 8e-09
XU184 0 0 N184 N185 nanowireDynamic
C184 N184 0 8e-09
XU185 0 0 N185 N186 nanowireDynamic
C185 N185 0 8e-09
XU186 0 0 N186 N187 nanowireDynamic
C186 N186 0 8e-09
XU187 0 0 N187 N188 nanowireDynamic
C187 N187 0 8e-09
XU188 0 0 N188 N189 nanowireDynamic
C188 N188 0 8e-09
XU189 0 0 N189 N190 nanowireDynamic
C189 N189 0 8e-09
XU190 0 0 N190 N191 nanowireDynamic
C190 N190 0 8e-09
XU191 0 0 N191 N192 nanowireDynamic
C191 N191 0 8e-09
XU192 0 0 N192 N193 nanowireDynamic
C192 N192 0 8e-09
XU193 0 0 N193 N194 nanowireDynamic
C193 N193 0 8e-09
XU194 0 0 N194 N195 nanowireDynamic
C194 N194 0 8e-09
XU195 0 0 N195 N196 nanowireDynamic
C195 N195 0 8e-09
XU196 0 0 N196 N197 nanowireDynamic
C196 N196 0 8e-09
XU197 0 0 N197 N198 nanowireDynamic
C197 N197 0 8e-09
XU198 0 0 N198 N199 nanowireDynamic
C198 N198 0 8e-09
XU199 0 0 N199 N200 nanowireDynamic
C199 N199 0 8e-09
XU200 0 0 N200 OUT nanowireDynamic
C200 N200 0 8e-09
C201 OUT 0 8e-09


.ends my_snspi

